US08735385B2
[2-Fluoro-4-(4-hydroxy-cyclohex-1-enyl)-phenyl]-carbamic acid benzyl ester
{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohex-1-enyl]-2-fluoro-phenyl}-carbamic acid benzyl ester (340 mg, 0.75 mmol) was dissolved in THF (10 mL). To this solution at rt was added TBAF (1M in THF) (2 mL, 2 mmol). The reaction mixture was stirred at rt overnight. After the reaction was complete (TLC, 5% MeOH in DCM), the reaction was diluted with EtOAc (5 mL), quenched with NaHCO3 (saturated, 5 mL). The two layers were separated and the aq. layer was extracted with EtOAc (15 mL×2). The EtOAc solution was combined, washed with NaHCO3 aq, and brine (10 mL each), sequentially, and dried over K2CO3, filtered, concentrated. The crude product was purified on a silica gel column, eluted with 5% MeOH in DCM to obtain 230 mg (92% yield) of the title compound as a tan solid.

reactant | {4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohex-1-enyl]-2-fluoro-phenyl}-carbamic acid benzyl ester | 0.75 mmol, 340 mg | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)C1=CCC(CC1)O[Si](C)(C)C(C)(C)C)F)=O | C26H34FNO3Si
reactant | TBAF | 2 mmol, 1M, 2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | MeOH | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | [2-Fluoro-4-(4-hydroxy-cyclohex-1-enyl)-phenyl]-carbamic acid benzyl ester | 230 mg, 92% yield | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)C1=CCC(CC1)O)F)=O | C20H20FNO3
